US04587047
(B) (S)-3-[[(1,1-Dimethylethoxy)carbonyl]amino]-N-(methylsulfonyl)-2-oxo-1-azetidinecarbothioamide
Sec-Butyl lithium (9.25 ml of 1.35 M solution in cyclohexane) was added to a stirred solution of (S)-3-[[(1,1-dimethylethoxy)carbonyl]amino]-2-oxoazetidine (2.33 g) in 250 ml of dry tetrahydrofuran at -75° C. under nitrogen. After stirring for 2 minutes, (methylsulfonyl)-isothiocyanate (1.75 ml) was added, and the solution was stirred for 25 minutes at -75° C. and poured into 125 ml of 0.5 M pH 5.5 monobasic potassium phosphate buffer. Ethyl acetate and water were added, and the pH was adjusted to 2.5 (3N hydrochloric acid). The ethyl acetate layer was washed with water, dried with sodium sulfate, and evaporated to a residue (3.69 g), which was recrystallized from ethyl acetate to give 2.04 g of the title compound. Recrystallization of a portion from ethyl acetate gave crystals, melting point 181° C.,dec.

reactant | Sec-Butyl lithium | 1.35 M, 9.25 ml | C(C)(CC)[Li]
reactant | (S)-3-[[(1,1-dimethylethoxy)carbonyl]amino]-2-oxoazetidine | 2.33 g | CC(C)(OC(=O)N[C@@H]1C(NC1)=O)C | C8H14N2O3
reactant | (methylsulfonyl)-isothiocyanate | 1.75 ml | CS(=O)(=O)N=C=S | C2H3NO2S2
reactant | potassium phosphate | 0.5 M, pH 5.5 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-3-[[(1,1-Dimethylethoxy)carbonyl]amino]-N-(methylsulfonyl)-2-oxo-1-azetidinecarbothioamide | 2.04 g | CC(C)(OC(=O)N[C@@H]1C(N(C1)C(NS(=O)(=O)C)=S)=O)C | C10H17N3O5S2
